US08212045B2
(S)-N-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(2,2,5,5-tetramethyl-1,3-dioxolan-4-yl)-1,2,4-thiadiazol-5-amine (145 mg, 0.2774 mmol) was dissolved in EtOH (5 mL), and 6M HCl (0.3 mL) was added. The reaction was stirred at ambient temperature for 2 hours and then at 70° C. for 2 hours. The reaction was cooled to ambient temperature and partitioned between CH2Cl2 and saturated aqueous sodium bicarbonate. The organic layer was dried, filtered, concentrated and purified over silica gel (10% methanol in EtOAc) to afford (S)-2-methyl-1-(5-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)propane-1,2-diol hydrochloride (111.7 mg, 0.215 mmol, 77.6% yield) as a pale yellow solid after HCl salt formation. Mass Spectrum (apci) m/z=465.2 (M+H—HCl).

reactant | (S)-N-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(2,2,5,5-tetramethyl-1,3-dioxolan-4-yl)-1,2,4-thiadiazol-5-amine | 0.2774 mmol, 145 mg | CC1=NC=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H]1OC(OC1(C)C)(C)C | C25H26N6O3S2
reactant | HCl | 6M, 0.3 mL | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
product | (S)-2-methyl-1-(5-(3-(2-methylpyridin-3-yloxy)-5-(pyridin-2-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)propane-1,2-diol hydrochloride | 0.215 mmol, 111.7 mg, 77.6% yield | Cl.CC([C@@H](O)C1=NSC(=N1)NC1=NC=C(C=C1OC=1C(=NC=CC1)C)SC1=NC=CC=C1)(C)O | InChI=1S/C22H22N6O3S2.ClH/c1-13-15(7-6-10-23-13)31-16-11-14(32-17-8-4-5-9-24-17)12-25-19(16)26-21-27-20(28-33-21)18(29)22(2,3)30;/h4-12,18,29-30H,1-3H3,(H,25,26,27,28);1H/t18-;/m0./s1
